US05962457
To a mixture of pyridine (6 mL), 2-bromoaniline (1.03 g, 6 mmol), and 3-acetamidothiophene-2-carboxylic acid (0.555 g, 3 mmol) was added phosphorus trichloride (0.03 mL, 3.45 mmol). The reaction was heated to 105° C. for 4 hours, cooled to ambient temperature and partitioned between chloroform and water (an insoluble precipitate was removed by filtration). Phases were separated and the aqueous layer was extracted with chloroform. The combined organic phase was washed with water and brine, dried over magnesium sulfate and concentrated to a dull yellow film. This residue was flash chromatographed on silica gel (30×125 mm) eluting with 15-25% ethyl acetate/hexane to afford 0.411 g (47%) of 2-methyl-3-(2-bromophenyl)-3H-thieno[3,2-d]pyrimidin-4-one as a yellow foam.

reactant | 2-bromoaniline | 6 mmol, 1.03 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | 3-acetamidothiophene-2-carboxylic acid | 3 mmol, 0.555 g | C(C)(=O)NC1=C(SC=C1)C(=O)O | C7H7NO3S
reactant | phosphorus trichloride | 3.45 mmol, 0.03 mL | P(Cl)(Cl)Cl | Cl3P
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | 2-methyl-3-(2-bromophenyl)-3H-thieno[3,2-d]pyrimidin-4-one | 0.411 g, 47% | CC=1N(C(C2=C(N1)C=CS2)=O)C2=C(C=CC=C2)Br | C13H9BrN2OS
